US08859584B2
7-(trifluoromethyl)chroman-4-one
The title compound was prepared from 3-trifluoromethyl-phenol according to EP1908753. MS (DCI/NH3) m/z 234 (M+NH4)+.

reactant | 3-trifluoromethyl-phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NH3 | N | H3N
product | 7-(trifluoromethyl)chroman-4-one | FC(C1=CC=C2C(CCOC2=C1)=O)(F)F | C10H7F3O2
